US07429605B2
2-(4-Chloro-phenyl)-6-[4-(4-[1,2,3]triazol-1-yl-butyl)-phenoxymethyl]-pyridine
A solution of 89 mg (0.42 mmol) 4-(4-[1,2,3]triazol-1-yl-butyl)phenol in 4.0 ml N,N-dimethylformamide was treated at 0° C. with 17 mg (0.42 mmol) of 60% sodium hydride and stirred at 0° C. for 30 min. Then 100 mg (0.42 mmol) 2-Chloromethyl-6-(4-chloro-phenyl)-pyridine [ZA 6706809] were added and stirred continued at r.t. over night. After addition of 8 ml water, the precipitate was isolated, washed thoroughly with water and n-heptane. The residue was dried at 40° C. and purified by LC-MS to give 80.5 mg (47%) of the title compound as white powder.

reactant | 4-(4-[1,2,3]triazol-1-yl-butyl)phenol | 0.42 mmol, 89 mg | N1(N=NC=C1)CCCCC1=CC=C(C=C1)O | C12H15N3O
reactant | sodium hydride | 0.42 mmol, 17 mg | [H-].[Na+]
reactant | 2-Chloromethyl-6-(4-chloro-phenyl)-pyridine | 0.42 mmol, 100 mg | ClCC1=NC(=CC=C1)C1=CC=C(C=C1)Cl | C12H9Cl2N
reactant | water | 8 ml | O | H2O
solvent | N,N-dimethylformamide | 4.0 ml | CN(C=O)C | C3H7NO
product | 2-(4-Chloro-phenyl)-6-[4-(4-[1,2,3]triazol-1-yl-butyl)-phenoxymethyl]-pyridine | 80.5 mg, 47% | ClC1=CC=C(C=C1)C1=NC(=CC=C1)COC1=CC=C(C=C1)CCCCN1N=NC=C1 | C24H23ClN4O
